US07989634B2
Step A: (2R)-N-methanesulfonyl-(4-chlorophenyl)alanine methyl ester
To a solution of (2R)-4-chlorophenylalanine methylester (213 mg, 1.00 mmol) in DCM (5 mL) was added dropwise TEA (280 μl, 2.00 mmol) and then methanesulfonylchloride (100 μl, 1.3 mmol) at 0° C. After 30 min, the reaction mixture was quenched with water and extracted with DCM and EtOAc. The organic solution was washed with 1N HCl, dried over MgSO4 and concentrated in vacuo, and the residue was purified by column chomatography (MeOH/CHCl3=1/25) to give the title compound (280 mg, 96.1%).

reactant | (2R)-4-chlorophenylalanine methylester | 1.00 mmol, 213 mg | COC([C@H](NC1=CC=C(C=C1)Cl)C)=O | C10H12ClNO2
reactant | methanesulfonylchloride | 1.3 mmol, 100 μl | CS(=O)(=O)Cl | CH3ClO2S
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
product | (2R)-N-methanesulfonyl-(4-chlorophenyl)alanine methyl ester | 280 mg, 96.1% | COC([C@H](N(S(=O)(=O)C)C1=CC=C(C=C1)Cl)C)=O | C11H14ClNO4S
